US08242104B2
2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-9-vinyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.300 g, 0.000894 mol) was dissolved in THF (20 mL) and H20 (10 mL). Osmium tetroxide (0.550 mL, 0.0716 mmol, 4% wt in water) was added followed by Sodium metaperiodate (0.383 g, 0.00179 mol). The reaction was stirred overnight at room temperature. The reaction was quenched using saturated sodium thio sulfate. 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carbaldehyde (0.302 g, 95.1% yield) was isolated using an aqueous workup and carried on without further purification

reactant | 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-9-vinyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.000894 mol, 0.300 g | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C=C)C1)C | C19H21N5O
reactant | Sodium metaperiodate | 0.00179 mol, 0.383 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Osmium tetroxide | 0.0716 mmol, 0.550 mL | [Os](=O)(=O)(=O)=O
product | 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carbaldehyde | 0.302 g, 95.1% yield | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C=O)C1)C | C18H19N5O2
